US04606914
(1) Extender pigment and pearl pigment treated with aluminum N-myristoyl-L-glutamate
Sodium N-myristoyl-L-glutamate was added to a suspension in which 30 g of sericite had been suspended in 4 liters of water. Then, stirring was fully carried out. Into this suspension was added 60 ml of a 20% aqueous solution of aluminum sulfate in 10 minutes. Then, further stirring was carried out for 10 minutes. Thereafter, the suspension was dehydrated by means of a basket type centrifuge. Then, drying was carried out at 110° C. in a hot-air drying apparatus to produce about 1 kg of a dried product. The dried product thus obtained was crushed by means of a high-speed mixer (hexyl mixer) to a light degree.

reactant | Sodium N-myristoyl-L-glutamate | C(CCCCCCCCCCCCC)(=O)N[C@@H](CCC(=O)[O-])C(=O)[O-].[Na+].[Na+]
reactant | aluminum sulfate | S(=O)(=O)([O-])[O-].[Al+3].S(=O)(=O)([O-])[O-].S(=O)(=O)([O-])[O-].[Al+3]
solvent | water | 4 liters | O | H2O
product | aluminum N-myristoyl-L-glutamate | about 1 kg | C(CCCCCCCCCCCCC)(=O)N[C@@H](CCC(=O)[O-])C(=O)[O-].[Al+3].C(CCCCCCCCCCCCC)(=O)N[C@@H](CCC(=O)[O-])C(=O)[O-].C(CCCCCCCCCCCCC)(=O)N[C@@H](CCC(=O)[O-])C(=O)[O-].[Al+3] | InChI=1S/3C19H35NO5.2Al/c3*1-2-3-4-5-6-7-8-9-10-11-12-13-17(21)20-16(19(24)25)14-15-18(22)23;;/h3*16H,2-15H2,1H3,(H,20,21)(H,22,23)(H,24,25);;/q;;;2*+3/p-6/t3*16-;;/m000../s1
